US07645789B2
To a solution of N-(2-bromo-3-fluorophenyl)butyramide (2.0 g, 7.0 mmol) in Et3N (100 mL) was added 4,4-dimethylpent-2-yne (6.0 g, 60 mmol), CuI (70 mg, 3.8 mmol), and Pd(PPh3)2Cl2 (500 mg) successively at room temperature under N2. The mixture was heated at 80° C. overnight. The cooled mixture was filtered and the filtrate was extracted with EtOAc (40 mL×3). The organic layers were washed with sat. NaCl, dried over anhydrous Na2SO4, and evaporated under vacuum. The crude compound was purified by column chromatography on silica gel (10% EtOAc in petroleum ether) to give N-(2-(3,3-dimethylbut-1-ynyl)-3-fluorophenyl)butyramide (1.1 g, 55%). 1H NMR (400 MHz, CDCl3) δ 8.20 (d, J=7.6, 1H), 7.95 (s, 1H), 7.21 (m, 1H), 6.77 (t, J=7.6 Hz, 1H), 2.39 (t, J=7.6 Hz, 2H), 1.82-1.75 (m, 2H), 1.40 (s, 9H), 1.12 (t, J=7.2 Hz, 3H).

reactant | N-(2-bromo-3-fluorophenyl)butyramide | 7.0 mmol, 2.0 g | BrC1=C(C=CC=C1F)NC(CCC)=O | C10H11BrFNO
reactant | 4,4-dimethylpent-2-yne | 60 mmol, 6.0 g | CC(C#CC)(C)C | C7H12
solvent | Et3N | 100 mL | CCN(CC)CC | C6H15N
catalyst | CuI | 3.8 mmol, 70 mg | [Cu]I
catalyst | Pd(PPh3)2Cl2 | 500 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | N-(2-(3,3-dimethylbut-1-ynyl)-3-fluorophenyl)butyramide | 1.1 g, 55% | CC(C#CC1=C(C=CC=C1F)NC(CCC)=O)(C)C | C16H20FNO
